US07402581B2
3-Cyano-1-naphthoic acid (see Bioorg. Med. Chem. Lett. 2001, 2769; 1.1 g, 5.6 mmol) was slurried in CH2Cl2 (10 mL) and then oxalyl chloride was added with stirring. A drop of DMF was added and the mixture stirred at room temperature overnight under nitrogen. The solvent was removed by evaporation and there was obtained 1.2 g (100%) of 3-cyano-1-naphthoyl chloride as a pale yellow solid. 1H NMR (300 MHz, CDCl3): 7.7-7.8 (m, 1H), 7.8-7.9 (m, 1H), 8.0-8.1 (m, 1H), 8.5 (s, 1H), 8.7 (s, 1H), 8.8 (d, 1H).

reactant | 3-Cyano-1-naphthoic acid | 5.6 mmol, 1.1 g | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)O | C12H7NO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyano-1-naphthoyl chloride | 1.2 g, 100% | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)Cl | C12H6ClNO
